US08937073B2
5a) 5-(4-methoxy-2-trifluoromethyl-phenylamino)-pyridine-2-carbonitrile
Analogously to Example 1a) 5-bromo-pyridine-2-carbonitrile was reacted with 2-trifluoromethyl-4-methoxy-aniline. After chromatographic purification through silica gel (petroleum ether with 10 to 30% ethyl acetate) the 4-(4-methoxy-2-trifluoromethyl-phenyl-amino)-benzonitrile was obtained in a yield of 97.4% of theory.

reactant | 5-bromo-pyridine-2-carbonitrile | BrC=1C=CC(=NC1)C#N | C6H3BrN2
reactant | 2-trifluoromethyl-4-methoxy-aniline | FC(C1=C(N)C=CC(=C1)OC)(F)F | C8H8F3NO
product | 5-(4-methoxy-2-trifluoromethyl-phenylamino)-pyridine-2-carbonitrile | yield of 97.4% | COC1=CC(=C(C=C1)NC=1C=CC(=NC1)C#N)C(F)(F)F | C14H10F3N3O
